US08487108B2
To a solution of (2,3-difluoro-5-methylphenyl)trimethylsilane (10 g, 0.05 mol) in anhydrous THF (100 mL) at −78° C., under nitrogen, was added dropwise a solution of 2.5 M n-BuLi in hexane (20 mL). After stirring for 1 hr at −78° C., a solution of (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate (13.6 g, 0.05 mol) in anhydrous THF (60 mL) was added dropwise. After addition, the reaction mixture was allowed to warm to rt and stirred for 2 h. The mixture was quenched with saturated NH4Cl solution (100 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo to give (R)-tert-butyl 3-(2,3-difluoro-6-methyl-4-(trimethylsilyl)benzoyl)piperidine-1-carboxylate, which was purified by column chromatography on silica gel elating with hexane (2 g, 10%). 1H NMR δ 6.90 (m, 2H), 4.00 (m, 4H), 2.20 (s, 3H), 1.47 (s, 9H), 1.30 (m, 4H), 0.35 (s, 9H).

reactant | (2,3-difluoro-5-methylphenyl)trimethylsilane | 0.05 mol, 10 g | FC1=C(C=C(C=C1F)C)[Si](C)(C)C | C10H14F2Si
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | (R)-tert-butyl 3-(methoxy(methyl)carbamoyl)piperidine-1-carboxylate | 0.05 mol, 13.6 g | CON(C(=O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C)C | C13H24N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | hexane | 20 mL | CCCCCC | C6H14
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-(2,3-difluoro-6-methyl-4-(trimethylsilyl)benzoyl)piperidine-1-carboxylate | FC1=C(C(=O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(=CC(=C1F)[Si](C)(C)C)C | C21H31F2NO3Si
